US04351767
Preparation of 3α,6α-dihydroxy-5β-cholest-24-ene
2.0 g of 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholest-24-ene, prepared according to Example V, was dissolved in a mixture of 20 ml of methylene chloride and 0.30 ml of methanol, and the solution was stirred with 5 g of zinc bromide for 18 hours. Then, ether was added, the mixture washed with water, the organic layer dried, the solvent evaporated, the residue washed with petroleum ether and dried. From nmr and ir data, the residue was identified as 3α,6α-dihydroxy-5β-cholest-24-ene, the same product as obtained by the acid hydrolysis of the 2-THP, t-Bu, Me3Si and Me2 t-BuSi ethers in Examples VI-IX.

reactant | 3α,6α-bis(β-methoxyethoxymethoxy)-5β-cholest-24-ene | 2.0 g | COCCOCO[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OCOCCOC | C35H62O6
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.30 ml | CO | CH4O
catalyst | zinc bromide | 5 g | [Br-].[Zn+2].[Br-]
product | 3α,6α-dihydroxy-5β-cholest-24-ene | O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C27H46O2
